US08227462B2
Imidazole-1-carboxylic acid {4-methyl-5-[2-(1-methyl-cyclopropyl)-pyrimidin-4-yl]-thiazol-2-yl}-amide
Carbonyl diimidazole (4.56 g) is added to a solution of 4-methyl-5-[2-(1-methyl-cyclopropyl)-pyrimidin-4-yl]-thiazol-2-ylamine (10.5 g) and triethylamine (4.28 ml) in DMF (26 ml) at room temperature and then heated for 2 hours at 80° C. After cooling the title compound is isolated by filtration.

reactant | Carbonyl diimidazole | 4.56 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | 4-methyl-5-[2-(1-methyl-cyclopropyl)-pyrimidin-4-yl]-thiazol-2-ylamine | 10.5 g | CC=1N=C(SC1C1=NC(=NC=C1)C1(CC1)C)N | C12H14N4S
reactant | triethylamine | 4.28 ml | C(C)N(CC)CC | C6H15N
reactant | DMF | 26 ml | CN(C)C=O | C3H7NO
product | Imidazole-1-carboxylic acid {4-methyl-5-[2-(1-methyl-cyclopropyl)-pyrimidin-4-yl]-thiazol-2-yl}-amide | CC=1N=C(SC1C1=NC(=NC=C1)C1(CC1)C)NC(=O)N1C=NC=C1 | C16H16N6OS
